US08034812B2
Production of 1-({[6-(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]amino}carbonyl)cyclopropyl acetate
In the same manner as in Example 279 and using 1-acetoxycyclopropanecarboxylic acid (90 mg, 0.63 mmol), tetrahydrofuran (1.5 mL), N,N-dimethylformamide (1 drop), oxalyl chloride (54 μL, 0.63 mmol), N-{5-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide hydrochloride (200 mg, 0.48 mmol) and N,N-dimethylacetamide (5 mL) as starting materials, the title compound (180 mg, 74%) was obtained as a white solid.

reactant | 1-acetoxycyclopropanecarboxylic acid | 0.63 mmol, 90 mg | C(C)(=O)OC1(CC1)C(=O)O | C6H8O4
reactant | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
reactant | oxalyl chloride | 0.63 mmol, 54 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-{5-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide hydrochloride | 0.48 mmol, 200 mg | Cl.NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)C)C1
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | 1-({[6-(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]amino}carbonyl)cyclopropyl acetate | 180 mg, 74% | C(C)(=O)OC1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC2=CC(=C(C=C2)C)NC(=O)C2=CC(=NN2C)C)C1 | C25H25N7O5
